US06713474B2
A mixture of 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}acetic acid (0.094 g, 0.21 mmol), 1-hydroxy-7-azabenzotriazole (0.044 g, 0.32 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.082 g, 0.43 mmol), 2M methylamine in tetrahydrofuran (2.13 mL, 4.26 mmol) and N,N-dimethylformamide (1.50 mL) was heated at 60° C. overnight. The mixture was allowed to cool to ambient temperature and purified by preparative RP-HPLC to yield N1-methyl-2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}acetamide (0.025 g, 0.055 mmol) as a white solid: 1H NMR (CDCl3, 400 MHz) δ 8.24(s, 1H), 7.42(d, 2H), 7.38 (t, 2H), 7.16(t, 1H), 7.07(m, 5H), 5.82(br, 2H), 5.62(br, 1H), 4.70(m, 1H), 2.83 (d, 3H), 2.36-1.70(m, 11H); MS: MH+ 456; TLC (ethyl acetate) Rf 0.34; RP-HPLC (Hypersil C18, 5 μm, 100 A, 250×4.6 mm; 25%-100% acetonitrile-0.05M ammonium acetate over 10 min, 1 mL/min) Rt 9.32 min.

reactant | 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}acetic acid | 0.21 mmol, 0.094 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCC(CC2)CC(=O)O | C26H26N4O3
reactant | 1-hydroxy-7-azabenzotriazole | 0.32 mmol, 0.044 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.43 mmol, 0.082 g | Cl.CN(CCCN=C=NCC)C
reactant | methylamine | 2M | CN | CH5N
reactant | tetrahydrofuran | 4.26 mmol, 2.13 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 1.50 mL | CN(C=O)C | C3H7NO
product | N1-methyl-2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}acetamide | 0.055 mmol, 0.025 g | CNC(CC1CCC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2)=O | C27H29N5O2
